US07288537B2
A solution of 1-Benzhydryl-3-(3,4-dichloro-phenoxy)-azetidine (2.14 g, 6.4 mmol) in dry dichloromethane (20 ml) is treated with 1-chloroethylchloroformate (0.832 ml, 7.7 mmol) with stirring for 4 hours. The solvent is evaporated and the residue dissolved in methanol and refluxed for 18 hrs. The methanol is evaporated to a saturated solution, and then treated with diethylether. The resulting precipitate is filtered and dried under vacuum to afford 3-(3,4-Dichloro-phenoxy)-azetidine hydrochloride. 1H NMR (D6 DMSO, 400 Mhz) δ 9.5 (2H, brS), 7.6 (1H, d), 7.2 (1H, s), 6.9 (1H, d), 5.1 (1H, m), 4.4 (2H, m), 3.95 (2H, m).

reactant | 1-Benzhydryl-3-(3,4-dichloro-phenoxy)-azetidine | 6.4 mmol, 2.14 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OC1=CC(=C(C=C1)Cl)Cl | C22H19Cl2NO
reactant | 1-chloroethylchloroformate | 7.7 mmol, 0.832 ml | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(3,4-Dichloro-phenoxy)-azetidine hydrochloride | Cl.ClC=1C=C(OC2CNC2)C=CC1Cl | InChI=1S/C9H9Cl2NO.ClH/c10-8-2-1-6(3-9(8)11)13-7-4-12-5-7;/h1-3,7,12H,4-5H2;1H
